US07135466B2
N-(3-Chlorobenzoyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 3-chloro-1-benzenecarbonyl isothiocyanate (50 μl) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (77 mg, yield 93%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 3-chloro-1-benzenecarbonyl isothiocyanate | 50 μl | ClC=1C=C(C=CC1)C(=O)N=C=S | C8H4ClNOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chlorobenzoyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea | 77 mg, yield 93% | ClC=1C=C(C(=O)NC(=S)NC2=CC=C(C=C2)OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC1 | C25H20ClN3O4S
